US08557809B2
Step D: Preparation of tert-butyl (1-(2-(2,2-dimethyl-1,3-dioxolan-4-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate
To 8-bromo-2-(2,2-dimethyl-1,3-dioxolan-4-yl)quinoline (101 mg, 0.328 mmol) in toluene (1.3 mL) was added tert-butyl piperidin-4-ylmethylcarbamate (84.3 mg, 0.393 mmol), Pd(OAc)2 (7.3 mg, 0.033 mmol), Binap-rac (25 mg, 0.039 mmol) and Cs2CO3 (235 mg, 0.721 mmol). The reaction was purged twice with nitrogen and heated at reflux overnight. The reaction mixture was cooled to ambient temperature and filtered through Celite, and the solids were washed with EtOAc (20 mL). The filtrate was concentrated, and the crude material was purified by silica gel chromatography (EtOAc/Hexane 1:6) provided final product.

reactant | 8-bromo-2-(2,2-dimethyl-1,3-dioxolan-4-yl)quinoline | 0.328 mmol, 101 mg | BrC=1C=CC=C2C=CC(=NC12)C1OC(OC1)(C)C | C14H14BrNO2
reactant | tert-butyl piperidin-4-ylmethylcarbamate | 0.393 mmol, 84.3 mg | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | Cs2CO3 | 0.721 mmol, 235 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.033 mmol, 7.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl (1-(2-(2,2-dimethyl-1,3-dioxolan-4-yl)quinolin-8-yl)piperidin-4-yl)methylcarbamate | CC1(OCC(O1)C1=NC2=C(C=CC=C2C=C1)N1CCC(CC1)CNC(OC(C)(C)C)=O)C | C25H35N3O4
